US09108938B2
2,3-Dimethyl-N-(2-morpholin-4-yl-2-pyridin-4-yl-ethyl)-benzamide
From 2,3-dimethylbenzoic acid and (2-morpholin-4-yl-2-pyridin-4-ylethyl)amine.

reactant | 2,3-dimethylbenzoic acid | CC1=C(C(=O)O)C=CC=C1C | C9H10O2
reactant | (2-morpholin-4-yl-2-pyridin-4-ylethyl)amine | N1(CCOCC1)C(CN)C1=CC=NC=C1 | C11H17N3O
product | 2,3-Dimethyl-N-(2-morpholin-4-yl-2-pyridin-4-yl-ethyl)-benzamide | CC1=C(C(=O)NCC(C2=CC=NC=C2)N2CCOCC2)C=CC=C1C | C20H25N3O2
